US07759366B2
269 mg of palladium acetate were added under an argon atmosphere to a suspension of 916 mg of 2-chloro-4-aminobenzonitrile, 773 mg of cyclopropylboronic acid, 5.094 g of potassium phosphate and 673 mg of tricyclohexylphosphine in a mixture of 10.5 ml of toluene and 1.74 ml of water. The mixture was stirred at 80° C. overnight. The cooled reaction mixture was admixed with water and ethyl acetate and filtered, and the filtrate was extracted three times with a mixture of ethyl acetate with toluene. The organic phases were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography (method [PR1]) and afforded 4-amino-2-cyclopropylbenzonitrile. 1H NMR: 7.3, d, 1H; 6.4, d, 1H, 6.1, d, 1H, 4.0, s (broad), 2H, 2.0, m, 1H, 1.0, m, 2H, 0.65, m, 2H.

reactant | 2-chloro-4-aminobenzonitrile | 916 mg | ClC1=C(C#N)C=CC(=C1)N | C7H5ClN2
reactant | cyclopropylboronic acid | 773 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 5.094 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 673 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 10.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1.74 ml | O | H2O
catalyst | palladium acetate | 269 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-amino-2-cyclopropylbenzonitrile | NC1=CC(=C(C#N)C=C1)C1CC1 | C10H10N2
